US06929685B2
N-formyl-1-aminoundec-10-ene (467 mg) was dissolved in ethanol (2 ml). Pd/C (46 mg) was added and the mixture submitted to hydrogenation at atmospheric pressure during 10 h. The reaction mixture was filtered through a short column of celite and the solvent evaporated under vacuo. This yielded N-formyl-1-aminoundecane (468 mg, yield: 100%) as a white solid

reactant | N-formyl-1-aminoundec-10-ene | 467 mg | C(=O)NCCCCCCCCCC=C | C12H23NO
solvent | ethanol | 2 ml | C(C)O | C2H6O
catalyst | Pd/C | 46 mg | [Pd] | Pd
product | N-formyl-1-aminoundecane | 468 mg, yield: 100% | C(=O)NCCCCCCCCCCC | C12H25NO
